US20010006969A1
2-Allylamino-7-methyl-4-(1-pyrrolidinylcarbonyl)aminothieno[ 3,2-d]pyrimidine
122 mg (1.0 mmol) of N,N-dimethylaminopyridine was added to a solution of 306 mg (1.4 mmol) of di-t-butyldicarbonate in acetonitrile at room temperature, followed by stirring 20 minutes. After 220 mg (1.0 mmol) of 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine was added to the reaction solution, the mixture was stirred at room temperature for 2 hours. Further, 142 mg (2.0 mmol) of pyrrolidine was added thereto, followed by heating under reflux for 16 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified by a silica gel chromatography (eluent: ethyl acetate-hexane=½] to give 181 mg (yield: 57.1%) of the title compound.

reactant | di-t-butyldicarbonate | 1.4 mmol, 306 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine | 1.0 mmol, 220 mg | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)N | C10H12N4S
reactant | pyrrolidine | 2.0 mmol, 142 mg | N1CCCC1 | C4H9N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Allylamino-7-methyl-4-(1-pyrrolidinylcarbonyl)aminothieno[ 3,2-d]pyrimidine | 181 mg, yield: 57.1% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NC(=O)N2CCCC2 | C15H19N5OS
